US03946004
Phosphorus oxychloride (38.3 g., 0.25 mole) in 50 ml. of 1,2-dichloroethane is added in one portion to a stirred mixture of phenothiazine (49.8 g., 0.25 mole) and 2-pyrrolidinone (42.6 g., 0.5 mole) in 250 ml. of 1,2-dichloroethane. The mixture is stirred for 4 hr. at room temperature, permitted to stand for a period of 15 hr. and then poured into a mixture of 200 ml. of 5N sodium hydroxide and 100 g. of crushed ice. The 1,2-dichloroethane layer is separated and the aqueous layer extracted with 100 ml. of additional 1,2-dichloroethane. The combined 1,2-dichloroethane fractions are sequentially extracted with 300 ml. of 1.5N hydrochloric acid and 200 ml. of water. The combined acid-water extracts are washed with ether, made basic with 5N sodium hydroxide and extracted repeatedly with chloroform. After drying over magnesium sulfate, the chloroform solution is concentrated and the residual material thus obtained stirred with 200 ml. of acetone to remove the acetone soluble 10-[2-(1-pyrrolinyl)]-phenothiazine by-product and filtered. The filter cake is washed with additional acetone and dried providing 14.1 g. (17% yield) of 10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE as the free base, m.p. 199°-201° C. The bis-pyrrolinyl phenothiazine free base suspended in 60 ml. of absolute ethanol, acidified with an equivalent of ethanolic hydrogen chloride, treated with decolorizing charcoal, filtered, and diluted with 200-250 ml. of anhydrous ether provides the hydrochloride salt. Crystallization of the hydrochloride salt from absolute ethanol-anhydrous ether affords analytically pure 10-[1-(1PYRROLIN-2-YL)-2-PYRROLIN-2-YL PHENOTHIAZINE] HYDROCHLORIDE solvated with 1/5 mole of ethanol as an off white solid, m.p. 237°-239° C. (corr.).

reactant | Phosphorus oxychloride | 0.25 mole, 38.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenothiazine | 0.25 mole, 49.8 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 2-pyrrolidinone | 0.5 mole, 42.6 g | N1C(CCC1)=O | C4H7NO
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE | 17% yield | N1=C(CCC1)N1C(=CCC1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C20H19N3S
